US07776857B2
A pyrex reaction tube was charged with 4-(7-methoxy-1,5-naphthyridin-4-yloxy)benzenamine (128 mg, 0.478 mmol), 1-(azepan-1-yl)-4-chlorophthalazine (125 mg, 0.478 mmol), TFA (0.029 ml, 0.382 mmol) and 2.4 mL of 2-BuOH. The tube was sealed and the reaction mixture was heated at 100° C. for 1.5 h. Upon cooling, EtOAc was added, and the resulting precipitate was filtered and washed with EtOAc. The solid was dissolved in 90/10/1 CH2Cl2/MeOH/NH4OH and purified by silica gel chromatography with 90/10/1 CH2Cl2/MeOH/NH4OH. The material was further purified by reverse phase chromatography (Gilson, 5-95% ACN over 15 min) to provide 4-(azepan-1-yl)-N-(4-(7-methoxy-1,5-naphthyridin-4-yloxy)phenyl)phthalazin-1-amine as a tan solid. MS m/z=493 [M+H]+. Calc'd for C29H28N6O2: 492.57.

reactant | 4-(7-methoxy-1,5-naphthyridin-4-yloxy)benzenamine | 0.478 mmol, 128 mg | COC1=CN=C2C(=CC=NC2=C1)OC1=CC=C(C=C1)N | C15H13N3O2
reactant | 1-(azepan-1-yl)-4-chlorophthalazine | 0.478 mmol, 125 mg | N1(CCCCCC1)C1=NN=C(C2=CC=CC=C12)Cl | C14H16ClN3
reactant | TFA | 0.382 mmol, 0.029 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 4-(azepan-1-yl)-N-(4-(7-methoxy-1,5-naphthyridin-4-yloxy)phenyl)phthalazin-1-amine | N1(CCCCCC1)C1=NN=C(C2=CC=CC=C12)NC1=CC=C(C=C1)OC1=CC=NC2=CC(=CN=C12)OC | C29H28N6O2
